US06469020B2
4-(3,4-Dihydro-1H-benzo[4,5]thieno [2,3-c]pyridine-2-sulfonylmethyl)-tetrahydro-pyran-4-carboxylic Acid
4-Chlorosulfonylmethyl-tetrahydro-pyran-4-carboxylic acid methyl ester (520 mg) was added to a solution of 1,2,3,4-tetrahydrobenzo[4,5]thieno[2,3-c]pyridine hydrochloride (450 mg) and triethlyamine (1.0 ml) in tetrahydrofuran (20 ml). The mixture was stirred at room temperature for 18 h then water (5 ml), methanol (5 ml) and lithium hydroxide monohydrate (400 mg) were added and the reaction heated to reflux for 3 h. The mixture was evaporated under reduced pressure and the aqueous residue washed with diethyl ether (2×10 ml), acidified with 1M hydrochloric acid and the precipitate collected by filtration to give the title compound (200 mg, 25%) as a white solid.

reactant | 4-Chlorosulfonylmethyl-tetrahydro-pyran-4-carboxylic acid methyl ester | 520 mg | COC(=O)C1(CCOCC1)CS(=O)(=O)Cl | C8H13ClO5S
reactant | 1,2,3,4-tetrahydrobenzo[4,5]thieno[2,3-c]pyridine hydrochloride | 450 mg | Cl.C1NCCC2=C1SC1=C2C=CC=C1
reactant | triethlyamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | lithium hydroxide monohydrate | 400 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 4-(3,4-Dihydro-1H-benzo[4,5]thieno [2,3-c]pyridine-2-sulfonylmethyl)-tetrahydro-pyran-4-carboxylic Acid | 200 mg, 25% | C1N(CCC2=C1SC1=C2C=CC=C1)S(=O)(=O)CC1(CCOCC1)C(=O)O | C18H21NO5S2
